US06166030
c) 2-Thiophenecarboximidothioic acid, ethyl ester, hydrochloride
To a stirred solution of ethanethiol (28.4 g, 0.45 mols) in methylene chloride (500 ml) at 10° C. under nitrogen was added 2-thiophenecarbonitrile (50.0 g, 0.45 mols). This solution was treated with a slow stream of HCl gas for 6 h. The reaction mixture was then allowed to warm to room temperature for 18 h. Ether (200 ml) was added and a white solid crystallized. The solid 2-thiophenecarboximidothioic acid, ethyl ester, hydrochloride was collected by filtration and air dried (65.8 g), m.p. 196-197° C.

reactant | ethanethiol | 0.45 mols, 28.4 g | C(C)S | C2H6S
reactant | 2-thiophenecarbonitrile | 0.45 mols, 50.0 g | S1C(=CC=C1)C#N | C5H3NS
reactant | HCl | Cl | ClH
reactant | Ether | 200 ml | CCOCC | C4H10O
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 2-Thiophenecarboximidothioic acid, ethyl ester, hydrochloride | Cl.S1C(=CC=C1)C(=N)SCC | InChI=1S/C7H9NS2.ClH/c1-2-9-7(8)6-4-3-5-10-6;/h3-5,8H,2H2,1H3;1H
